US06117870
The same reaction procedure as in Example 1 was repeated except that the 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid used in Example 1 was replaced by 1.06 g of 1-[N-[4-(2-methy-2-propyloxycarbonyl)piperadine-4-carbonyl]amino]cyclohexanecarboxylic acid, and (2RS,3S)-N-(2-methyl-2-propyl)-3-amino-2-hydroxyheptanamide used in Example 1 was replaced by 0.43 g of (2RS, 3S)-3-amino-2-hydroxyheptanamide synthesized in Reference Example 16, whereby 0.92 g of N-[(S)-1-amino-1,2-dioxo-3-heptyl]-1-[N-[(2-methyl-2-propyloxycarbonyl)piperadine-4-carbonyl]amino]cyclohexanecarboxamide was obtained in a yield of 63%.

reactant | 1-[N-(morpholine-4-carbonyl)amino]cyclohexanecarboxylic acid | N1(CCOCC1)C(=O)NC1(CCCCC1)C(=O)O | C12H20N2O4
reactant | 1-[N-[4-(2-methy-2-propyloxycarbonyl)piperadine-4-carbonyl]amino]cyclohexanecarboxylic acid | 1.06 g | CC(C)(C)OC(=O)C1(CCNCC1)C(=O)NC1(CCCCC1)C(=O)O | C18H30N2O5
reactant | (2RS,3S)-N-(2-methyl-2-propyl)-3-amino-2-hydroxyheptanamide | CC(C)(C)NC(C([C@H](CCCC)N)O)=O | C11H24N2O2
reactant | (2RS, 3S)-3-amino-2-hydroxyheptanamide | 0.43 g | N[C@H](C(C(=O)N)O)CCCC | C7H16N2O2
product | N-[(S)-1-amino-1,2-dioxo-3-heptyl]-1-[N-[(2-methyl-2-propyloxycarbonyl)piperadine-4-carbonyl]amino]cyclohexanecarboxamide | 0.92 g, yield of 63% | NC(C([C@H](CCCC)NC(=O)C1(CCCCC1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C25H42N4O6
